US08748624B2
STEP D: 3-(5-(2-(((2′,4′-dichloro-[1,1′-biphenyl]-4-yl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoic acid
A 3M aqueous solution of NaOH (0.63 mL, 1.9 mmol) was added to a THF (4 mL) and MeOH (2 mL) solution of ethyl 3-(5-(2-(((2′,4′-dichloro-[1,1-biphenyl]-4-yl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoate (388 mg, 0.6 mmol) and the homogeneous mixture was stirred at room temperature. After 16 h the resulting mixture was concentrated in vacuo, suspended in water, and acidified with 2 M HCl. The resulting precipitate was filtered off and dried in vacuo to yield the title compound.

reactant | NaOH | 1.9 mmol, 0.63 mL | [OH-].[Na+]
reactant | THF | 4 mL | C1CCOC1 | C4H8O
reactant | ethyl 3-(5-(2-(((2′,4′-dichloro-[1,1-biphenyl]-4-yl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoate | 0.6 mmol, 388 mg | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)NCC1=C(C=C(C=C1)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C31H26Cl2F3N3O3
solvent | MeOH | 2 mL | CO | CH4O
product | 3-(5-(2-(((2′,4′-dichloro-[1,1′-biphenyl]-4-yl)amino)methyl)-5-(trifluoromethyl)phenyl)picolinamido)propanoic acid | ClC1=C(C=CC(=C1)Cl)C1=CC=C(C=C1)NCC1=C(C=C(C=C1)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)O | C29H22Cl2F3N3O3
